US07781593B2
Bis(triphenylphosphine)palladium (II) dichloride (52 mg, 0.074 mmol), cuprous (I) iodide (14 mg, 0.074 mmol), triphenylphosphine polystyrene resin(146 mg, 1.48 mmol/g) and propargyl methylether (104 mg, 1.48 mmol) were added under argon at room temperature to a solution of 6-chloro-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide (450 mg, 1.23 mmol) in N,N-dimethylformamide. The mixture was irradiated for 70 min in a microwave oven at 120° C. The polystyrene resin was filtered off and washed with ethylacetate. The filtrate was treated with 1 N HCl (80 mL); phases were separated and the water phase was extracted with ethyl acetate (2×100 mL). The organic phases were washed with water (100 mL) and saturated sodium bicarbonate solution (100 mL). Organic phases were then combined, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography (heptane/ethyl acetate 1:2 to 1:9) to give 5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(3-methoxy-prop-1-ynyl)-nicotinamide as a light yellow solid; 0.13 g (26% yield). m/z (ISP+): 399.1 (M+H).

reactant | propargyl methylether | 1.48 mmol, 104 mg | C(C#C)OC | C4H6O
reactant | 6-chloro-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | 1.23 mmol, 450 mg | ClC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)Cl | C18H18Cl2N2O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | Bis(triphenylphosphine)palladium | 0.074 mmol, 52 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(3-methoxy-prop-1-ynyl)-nicotinamide | 26% yield | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C#CCOC | C22H23ClN2O3
